US06011039
(3) Preparation of 2-[3-chloro-5-(2-propenyloxycarbonylamino)benzylamino]-6-[2-(5-ethyl-4-methyl-1,3-thiazol-2-yl)ethyl]-4-morpholinopyridine
2-{N-tert-butoxycarbonyl-N-[3-chloro-5-(2-propenyloxycarbonylamino)benzyl]amino}-6-[2-(5-ethyl-4-methyl-1,3-thiazol-2-yl)ethyl]-4-morpholinopyridine (470 mg) was dissolved in trifluoroacetic acid (5 ml), followed by stirring at room temperature for 30 minutes. The reaction solution was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate, washed with a saturated sodium hydrogen carbonate aqueous solution and a saturated sodium chloride aqueous solution and then, dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform/methanol=50/1→20/1) to obtain the above identified compound (307 mg) as a white solid.

reactant | 2-{N-tert-butoxycarbonyl-N-[3-chloro-5-(2-propenyloxycarbonylamino)benzyl]amino}-6-[2-(5-ethyl-4-methyl-1,3-thiazol-2-yl)ethyl]-4-morpholinopyridine | 470 mg | C(C)(C)(C)OC(=O)N(CC1=CC(=CC(=C1)NC(=O)OCC=C)Cl)C1=NC(=CC(=C1)N1CCOCC1)CCC=1SC(=C(N1)C)CC | C33H42ClN5O5S
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[3-chloro-5-(2-propenyloxycarbonylamino)benzylamino]-6-[2-(5-ethyl-4-methyl-1,3-thiazol-2-yl)ethyl]-4-morpholinopyridine | ClC=1C=C(CNC2=NC(=CC(=C2)N2CCOCC2)CCC=2SC(=C(N2)C)CC)C=C(C1)NC(=O)OCC=C | C28H34ClN5O3S
